US05686586
(a) E-2-[-2-(4-methylphenyl)-3-(5,6,7,8-tetrahydro-5,5, 8,8-tetramethyl-2-naphthyl)allyl]-1,3-dioxane.
1.5 g (5 mmoles) of 2-[3-(5,6,7,8-tetrahydro-5,5, 8,8-tetramethyl-2-naphthyl)-allyl]-1,3-dioxane, 850 mg (5 mmoles) of 4-bromotoluene, 25 mg (0.1 mmole) of Pd (OAc)2, 55 mg (0.2 mmole) of P(C6H5)3 and 1.4 g (10 mmoles) of potassium carbonate are heated at 180° C. for 2 hours under passage of nitrogen.

reactant | 2-[3-(5,6,7,8-tetrahydro-5,5, 8,8-tetramethyl-2-naphthyl)-allyl]-1,3-dioxane | 5 mmoles, 1.5 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C=CCC1OCCCO1)C | C21H30O2
reactant | 4-bromotoluene | 5 mmoles, 850 mg | BrC1=CC=C(C=C1)C | C7H7Br
reactant | P(C6H5)3 | 0.2 mmole, 55 mg | P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium carbonate | 10 mmoles, 1.4 g | C([O-])([O-])=O.[K+].[K+]
product | E-2-[-2-(4-methylphenyl)-3-(5,6,7,8-tetrahydro-5,5, 8,8-tetramethyl-2-naphthyl)allyl]-1,3-dioxane | CC1=CC=C(C=C1)\C(\CC1OCCCO1)=C\C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C28H36O2
